US04940719
Ethyl 6-bromo-9-p-chlorobenzyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetate
Following the procedure of Example 1, but using 1-(4-chlorobenzyl)-1-(4-bromophenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound is prepared.

reactant | 1-(4-chlorobenzyl)-1-(4-bromophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)Br)C=C1
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | Ethyl 6-bromo-9-p-chlorobenzyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetate | BrC=1C=C2C=3CCCC(C3N(C2=CC1)CC1=CC=C(C=C1)Cl)CC(=O)OCC | C23H23BrClNO2
